US06906067B2
5-Methyl-2-(phenyl-allyl)-2,3-dihydro-isoindol-1-one
Under argon sodium metal (0.58 g, 24.37 mmol) was slowly added to anhydrous ethanol. After all the sodium was reacted methanesulfonic acid 2-(5-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-2-phenyl-ethyl ester (5.61 g, 16.25 mmol) dissolved in ethanol was added to the reaction mixture and the solution was stirred for 6 h at room temp. The reaction was poured into water and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was used in the next step without further purification. Yield 3.64 g.

reactant | sodium | [Na] | Na
reactant | methanesulfonic acid 2-(5-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-2-phenyl-ethyl ester | 16.25 mmol, 5.61 g | CC=1C=C2CN(C(C2=CC1)=O)C(COS(=O)(=O)C)C1=CC=CC=C1 | C18H19NO4S
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
product | 5-Methyl-2-(phenyl-allyl)-2,3-dihydro-isoindol-1-one | CC=1C=C2CN(C(C2=CC1)=O)CC=CC1=CC=CC=C1 | C18H17NO
